US07511145B2
Preparation of 1-cyclohexyl-2-[2-(2-ethoxy-5-nitro-phenyl)-quinolin-6-yl]-1H-benzoimidazole-5-carboxylic acid (Compound 404)
1-(2-Bromo-5-nitro-phenyl)-ethanone (61 mg, 0.25 mmol) prepared similarly to the procedure described in Meisenheimer, J., Zimmermann P., and v. Kummer, U. Ann. der. Chem. 446, pp. 205-228) and 2-(4-amino-3-formyl-phenyl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester (98 mg, 0.25 mmol) were dissolved in 500 μL ethanol and 500 μL 10% ethanolic KOH were added. The reaction was stirred at 75° C. overnight. The reaction was acidified with 4N hydrochloric acid, extracted three times with ethyl acetate, the organic extracts were dried with sodium sulfate and then evaporated. Purification via reverse-phase HPLC gave 16 mg (97.33% pure) of product.

reactant | 1-(2-Bromo-5-nitro-phenyl)-ethanone | 0.25 mmol, 61 mg | BrC1=C(C=C(C=C1)[N+](=O)[O-])C(C)=O | C8H6BrNO3
reactant | 2-(4-amino-3-formyl-phenyl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester | 0.25 mmol, 98 mg | C(C)OC(=O)C1=CC2=C(N(C(=N2)C2=CC(=C(C=C2)N)C=O)C2CCCCC2)C=C1 | C23H25N3O3
reactant | KOH | 500 μL | [OH-].[K+]
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethanol | 500 μL | C(C)O | C2H6O
product | 1-cyclohexyl-2-[2-(2-ethoxy-5-nitro-phenyl)-quinolin-6-yl]-1H-benzoimidazole-5-carboxylic acid | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)C(=O)O)C=2C=C1C=CC(=NC1=CC2)C2=C(C=CC(=C2)[N+](=O)[O-])OCC | C31H28N4O5
